US08455663B2
2-Chloro-3-hydroxy-benzaldehyde (1.0 g, 6.4 mmol) was dissolved in 10 ml N-methyl-pyrolidone at 20° C. The resultant yellow solution was degassed with argon. After addition of cesium carbonate (2.29 g, 7.0 mmol) the suspension was stirred for 20 minutes. 2-(methanesulfonyloxy)-butyronitrile (1.56 g, 9.6 mmol) and potassium iodide (0.05 g, 0.05 mmol) were then added and the reaction mixture was heated at 100° C. under microwave irradiation (Initiator™ Sixty, Biotage) for 3 minutes. After adding an additional portion of 2-(methanesulfonyloxy)-butyronitrile (0.52 g, 3.2 mmol) the reaction mixture was once again heated under microwave irradiation at 100° C. for 5 minutes. The reaction was monitored by TLC. On completion, the mixture was poured into water (0° C.) and extracted with ether. The organic layer was separated and washed with NaOH (1N), water and brine and dried with MgSO4. The crude material was purified on silicagel by flash chromatography (ethylacetate/cyclohexane) to give 2-(2-chloro-3-formyl-phenoxy)-butyronitrile as yellow oil; 1H-NMR (CDCl3) 1.25, t, 3H, 2.2 m, 2H, 4.81 dd, 1H, 7.4, m, 2H, 7.68 m, 1H, 10.5 s, 1H.

reactant | 2-Chloro-3-hydroxy-benzaldehyde | 6.4 mmol, 1.0 g | ClC1=C(C=O)C=CC=C1O | C7H5ClO2
reactant | cesium carbonate | 7.0 mmol, 2.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(methanesulfonyloxy)-butyronitrile | 9.6 mmol, 1.56 g | CS(=O)(=O)OC(C#N)CC | C5H9NO3S
reactant | potassium iodide | 0.05 mmol, 0.05 g | [I-].[K+]
reactant | 2-(methanesulfonyloxy)-butyronitrile | 3.2 mmol, 0.52 g | CS(=O)(=O)OC(C#N)CC | C5H9NO3S
solvent | N-methyl-pyrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | O | H2O
product | 2-(2-chloro-3-formyl-phenoxy)-butyronitrile | ClC1=C(OC(C#N)CC)C=CC=C1C=O | C11H10ClNO2
